US07790715B2
b) tert-Butyl 3-[1-(2-aminoethyl)-3,3-dimethyl-2,3-dihydro-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.347 g of tert-butyl 3-[1-(2-azidoethyl)-3,3-dimethyl-2,3-dihydro-1H-indol-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 1.5 ml of tetrahydrofuran is admixed with stirring at room temperature successively with 0.32 ml of water, 1.40 ml of methanol, 0.32 ml of conc. ammonia and 0.210 g of triphenylphosphine, and stirred over 1 hour. The reaction mixture is admixed with water (40 ml) and extracted with tert-butyl methyl ether (2×40 ml). The organic phases are washed successively with water (40 ml) and brine (40 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.41 (200:20:1 dichloromethane methanol-conc. ammonia); Rt=5.54.

reactant | tert-butyl 3-[1-(2-azidoethyl)-3,3-dimethyl-2,3-dihydro-1H-indol-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.347 g | N(=[N+]=[N-])CCN1C(C(C2=CC=CC=C12)(C)C)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C40H53N5O6
reactant | ammonia | 0.32 ml | N | H3N
reactant | triphenylphosphine | 0.210 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
solvent | methanol | 1.40 ml | CO | CH4O
solvent | water | 0.32 ml | O | H2O
product | tert-Butyl 3-[1-(2-aminoethyl)-3,3-dimethyl-2,3-dihydro-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | NCCN1CC(C2=CC=C(C=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C)(C)C | C40H55N3O6
